2136-05-12 05:40:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shortness of breath
   24 Hour Events:
   -oxygenating well on nasal cannula overnight
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2136-5-9**] 04:13 PM
   Aztreonam - [**2136-5-9**] 05:02 PM
   Vancomycin - [**2136-5-11**] 08:58 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-12**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 94 (88 - 104) bpm
   BP: 124/81(88) {102/51(65) - 124/81(88)} mmHg
   RR: 34 (21 - 34) insp/min
   SpO2: 96%
   Height: 63 Inch
                  Total In:
                                                                    200 mL
                  PO:
                  TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                    170 mL
   Urine:
                                                                     75 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Gen: Uncomfortable appearing adult woman, ill but not in extremis.
   HEENT: PERRL, EOMI. MMM. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Chest: Few rhonchi throughout. Limited air movement. Exam overall
   improved from prior days.
   Cor: Normal S1, S2. RRR. No murmurs appreciated.
   Abdomen: NABS. Soft, non-tender and non-distended. No HSM.
   Extremity: Warm, with trace edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Sensation intact grossly.
   Labs / Radiology
   11.1 g/dL
   349 K/uL
   109 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.3 mEq/L
   9 mg/dL
   99 mEq/L
   141 mEq/L
   33.4 %
   11.6 K/uL
        [image002.jpg]
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
                             [**2136-5-6**]  07:17 AM
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
   WBC
   9.1
   11.0
   7.7
   12.1
   11.6
   Hct
   37.5
   38.4
   38.6
   39.3
   33.4
   Plt
   191
   255
   275
   280
   349
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   TCO2
   37
   34
   32
   32
   35
   Glucose
   [**Telephone/Fax (3) 8975**]10
   109
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   A 70 yo woman with known COPD initially presenting with SBO and hypoxia
   thought secondary to COPD and overlying pneumonia likely secondary to
   aspiration, initially improving but now transferred back to [**Hospital Unit Name 44**] in the
   setting of acute respiratory distress.
   # Hypoxia/respiratory distress: Leading diagnosis remains aspiration
   pneumnia in setting of COPD. An acute aspiration event on the floor
   today, leading to an aspiration pneumonitis, is also a consideration.
   Interestingly, the pt
s CXRs have consistently shown a predomonent
   left-sided oppacification; as she has not had any cardiac work-up to
   this point, an elevent of heart failure or valvulopathy could certainly
   be contributing to her clinical picture. Less likely but still possible
   would a process such as tracheomalatia or vocal cord dysfunction.
   -continue vanc/ceftriaxone/Flagyl for now (plan 8 day course; day 1 =
   [**2136-5-6**])
   -continue prednisone 60mg daily; continue albuterol and ipratropium inh
   -echo, BNP today
   -repeat CXR
   -change diet to NPO for now
   # Leukocytosis/fever: Pt remains without positive cultures. Although
   rising WBC count and low-grade fever are suggestive of infection, do
   not believe there is a clear indication to further change pt
s current
   antibiotic regimen acutely.
   -repeat cultures
   -continue current antibiotics as above
   # Drop in hematocrit: No signs/symptoms of active bleed. Unclear cause
   for drop in hct from 39
   -active type and screen
   -guiaic stools
   -recheck hct in afternoon
   # Nausea/vomiting/SBO: Etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  Currently resolved; pt is
   without NGT.
   -follow abdominal exam
   -will follow up speech and swallow recs for TF and PO diet.
   # Polycythemia: Resolved. Was likely due to COPD and
   hemoconcentration.  Will continue to monitor HCT, nothing more to do
   for now.
   # Bipolar Disorder: holding home meds until clinically stablilizes
   # GERD: Continue PPI
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: not applicable
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT: pantoprazole
   Stress ulcer: subQ heparin
   VAP: not vented
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU

2136-05-12 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yr old hx of cognitive impairment and COPD, triggered (almost coded)
   on floor because of hypoxemia. By time of admission to MICU, was
   saturating well on HF O2.
   24 Hour Events:
 PICC LINE - START [**2136-5-11**] 09:16 PM
   Tolerated n/c 4 L overnight with sats in low 90s.
   Tm 100.3
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2136-5-9**] 04:13 PM
   Aztreonam - [**2136-5-9**] 05:02 PM
   Vancomycin - [**2136-5-12**] 08:25 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-12**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-12**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-12**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37
C (98.6
   HR: 102 (81 - 104) bpm
   BP: 124/66(80) {102/51(65) - 128/86(97)} mmHg
   RR: 30 (21 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                    200 mL
                                                                    241 mL
   PO:
             TF:
   IVF:
                                                                    200 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                    390 mL
   Urine:
                                                                     75 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Wheezes : rare), mild resp distress
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   349 K/uL
   109 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.3 mEq/L
   9 mg/dL
   99 mEq/L
   141 mEq/L
   33.4 %
   11.6 K/uL
        [image002.jpg]
                             [**2136-5-5**]  11:38 PM
                             [**2136-5-6**]  03:10 AM
                             [**2136-5-6**]  07:17 AM
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
   WBC
   9.1
   11.0
   7.7
   12.1
   11.6
   Hct
   37.5
   38.4
   38.6
   39.3
   33.4
   Plt
   191
   255
   275
   280
   349
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   TCO2
   37
   34
   32
   32
   35
   Glucose
   [**Telephone/Fax (3) 8975**]10
   109
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR reviewed - bilat effusions with increased haziness on
   left, RUL segmental infiltrate
   Microbiology: Reviewed - no new growth
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71 yo with initial admission with SBO and complicated by signfiicant
   aspiration events with bilateral PNA and collapse now with recurrent
   episode of  hypoxemic respiratory failure
   1. Acute and chronic Respiratory Failure
   DDX: recurrent aspiration
 esp with advancing of diet today, +/- COPD
   exacerbation, diastolic dysfunction with cardiac wheezing to explain
   episodic resp distress. Would diurese today. Agree getting an updated
   echo
 note BNP 2300. Keep NPO.  Continue Vanc/Ceftriaxone/Flagyl.
   FIO2 weaned but remains with low respiratory reserve. Watch clsoely for
   s/sx of hypercarbia, low threshold for gas, if worsnens may not
   tolerate NIPPV would proceed with ETT and mech vent.
   Continue steroids (po OK) and Alb/Atrov.
   Repeat CXR in AM
   Check sputum Cx, would hold on broadening ABX unless spikes evolving
   CXR
   2. Anemia - ? acute blood loss. Check guaiac stools
   3. Nutrition
 continue with previous recs
   OOB to chair, chest PT, suctioning
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2136-05-13 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -in AM, became tachycardic, hypoxic after repositioned. ABG showed
   adequate oxygenation. ? [**2-6**] anxiety v. fluid overload (?high
   sensitivity to fluid load) v. aspiration.
   -placed on bipap
   -given morphine 2 mg with relief of symptoms
   -given lasix 10mg iv x 1
   -written for home olanzapine dose
   -CXR: the diffuse left-sided parenchymal opacities appear to increase
   in extent. The left costophrenic sinus is now clearly obliterated by a
   pleural effusion. The pre-existing right upper lobe opacities are
   slightly decreasing in extent. The size of the cardiac silhouette is
   unchanged.
   -PICC tip noted to have dislodged into RIJ -> pulled back to
   brachiocephalic/svc jxn.
   -comfortable on bipap with no further desats on subsequent
   repositioning. transitioned to 4LNC without complications.
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-5-12**] 04:31 PM
   Vancomycin - [**2136-5-12**] 08:03 PM
   Metronidazole - [**2136-5-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-12**] 08:09 AM
   Morphine Sulfate - [**2136-5-12**] 11:00 AM
   Furosemide (Lasix) - [**2136-5-12**] 11:28 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-12**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-13**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 98 (70 - 125) bpm
   BP: 118/76(86) {98/53(68) - 145/92(103)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    830 mL
                                                                    169 mL
   PO:
             TF:
   IVF:
                                                                    830 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    240 mL
   Urine:
                                                                  1,725 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (477 - 530) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.38/59/176/35/8
   Ve: 10 L/min
   PaO2 / FiO2: 352
   Physical Examination
   Gen: Uncomfortable appearing adult woman, ill but not in extremis.
   Lung: Few rhonchi throughout. Some short wheezes on expiration.
   Heart: Pt deffered in am.
   Abdomen: NABS. Soft, non-tender and non-distended. No HSM.
   Extremity: Warm, with trace edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Sensation intact grossly.
   Labs / Radiology
   352 K/uL
   11.1 g/dL
   111 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.4 mEq/L
   9 mg/dL
   100 mEq/L
   141 mEq/L
   34.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
                             [**2136-5-12**]  11:13 AM
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
   WBC
   11.0
   7.7
   12.1
   11.6
   12.0
   9.2
   Hct
   38.4
   38.6
   39.3
   33.4
   37.3
   34.2
   Plt
   255
   275
   280
   349
   402
   352
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   32
   32
   35
   36
   Glucose
   173
   198
   110
   109
   111
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A 70 yo woman with known COPD initially presenting with SBO and hypoxia
   thought secondary to COPD and overlying pneumonia likely secondary to
   aspiration, initially improving but now transferred back to [**Hospital Unit Name 44**] in the
   setting of acute respiratory distress.
   # Hypoxia/respiratory distress: Leading diagnosis remains aspiration
   pneumnia in setting of COPD. An acute aspiration event on the floor
   today, leading to an aspiration pneumonitis, is also a consideration.
   Interestingly, the pt
s CXRs have consistently shown a predomonent
   left-sided oppacification; as she has not had any cardiac work-up to
   this point, an elevent of heart failure or valvulopathy could certainly
   be contributing to her clinical picture. BNP elevated.  Less likely but
   still possible would a process such as tracheomalatia or vocal cord
   dysfunction.  Patient is also very upset at still being in hospital.
   She has been off her medications and the combination of the two may be
   causing her to act out her frustration.  Patient improved when night
   team talked her into taking slow deep breaths.
   -continue vanc/ceftriaxone/Flagyl for now (plan 8 day course; day 1 =
   [**2136-5-6**])
   -continue prednisone 60mg daily; continue albuterol and ipratropium inh
   -echo,
   -repeat CXR
   -change diet to NPO for now
   # Leukocytosis/fever: Pt remains without positive cultures. Although
   rising WBC count and low-grade fever are suggestive of infection, do
   not believe there is a clear indication to further change pt
s current
   antibiotic regimen acutely.
   -repeat cultures
   -continue current antibiotics as above
   # Drop in hematocrit: No signs/symptoms of active bleed. Unclear cause
   for drop in hct from 39
   -active type and screen
   -guiaic stools
   -recheck hct in afternoon
   # Nausea/vomiting/SBO: Etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  Currently resolved; pt is
   without NGT.
   -follow abdominal exam
   -will follow up speech and swallow recs for TF and PO diet.
   # Polycythemia: Resolved. Was likely due to COPD and
   hemoconcentration.  Will continue to monitor HCT, nothing more to do
   for now.
   # Bipolar Disorder: holding home meds until clinically stablilizes
   # GERD: Continue PPI
   ICU Care
   Nutrition: NPO for now. Will consider TF or TPN
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT: pantoprazole
   Stress ulcer: subQ heparin
   VAP: not vented
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU

2136-05-13 11:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight - tolerated switch to NC 2L O2
   Lasix x 1 dose
   Olanzapine dose restarted
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-5-12**] 04:31 PM
   Metronidazole - [**2136-5-13**] 04:00 AM
   Vancomycin - [**2136-5-13**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-5-12**] 11:28 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-13**] 08:44 AM
   Pantoprazole (Protonix) - [**2136-5-13**] 08:45 AM
   Other medications:
   Pred 60 daily, others reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-13**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 108 (70 - 108) bpm
   BP: 100/63(72) {98/13(36) - 132/86(97)} mmHg
   RR: 36 (20 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                    830 mL
                                                                    422 mL
   PO:
             TF:
   IVF:
                                                                    830 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    825 mL
   Urine:
                                                                  1,725 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (477 - 530) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: 7.38/59/176/35/8
   Ve: 10 L/min
   PaO2 / FiO2: 352
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   352 K/uL
   111 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.4 mEq/L
   9 mg/dL
   100 mEq/L
   141 mEq/L
   34.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2136-5-6**]  04:38 PM
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
                             [**2136-5-12**]  11:13 AM
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
   WBC
   11.0
   7.7
   12.1
   11.6
   12.0
   9.2
   Hct
   38.4
   38.6
   39.3
   33.4
   37.3
   34.2
   Plt
   255
   275
   280
   349
   402
   352
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   32
   32
   35
   36
   Glucose
   173
   198
   110
   109
   111
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 TACHYCARDIA, OTHER
   71 yo with initial admission with SBO and complicated by signfiicant
   aspiration events with bilateral PNA and collapse now with recurrent
   episode of  hypoxemic respiratory failure
   1.Acute and chronic Respiratory Failure
   Unclear etiology. Differential includes recurrent aspiration
 esp with
   advancing of diet today, +/- COPD exacerbation, diastolic dysfunction
   with cardiac wheezing to explain episodic resp distress. Improved after
   being diuresed ~1 L since admission. Agree getting an updated echo
   note BNP 2300. Keep NPO.  Continue Vanc/Ceftriaxone/Flagyl.
   FIO2 weaned but remains with poor respiratory reserve. Watch clsoely
   for s/sx of hypercarbia, low threshold for gas, if worsens she does
   tolerate NIPPV.
   Continue steroids, Alb/Atrov.
   Repeat CXR in AM
   2. Anemia - ? acute blood loss. Check guaiac stools
   3. Nutrition
 continue with previous recs
   4. Psych meds
 will begin to restart meds. Back on olanzapine. Restart
   Clonazepam today.
   OOB to chair, chest PT, suctioning
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2136-05-14 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Went on BiPAP in afternoon to rest
   -maintained Oxygen on NC
   -Re-started on home clonazapam (did not start Haldol yet)
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-5-13**] 04:26 PM
   Vancomycin - [**2136-5-13**] 07:43 PM
   Metronidazole - [**2136-5-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-13**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-13**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-14**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.6
C (96
   HR: 100 (87 - 112) bpm
   BP: 110/66(76) {95/13(36) - 121/79(87)} mmHg
   RR: 28 (22 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,720 mL
                                                                    174 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,000 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    500 mL
   Urine:
                                                                  1,790 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                   -326 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 13.2 L/min
   Physical Examination
   Gen: Uncomfortable appearing adult woman, ill but not in extremis.
   Lung: Few rhonchi throughout. Some short wheezes on expiration.
   Heart: Pt deffered in am.
   Abdomen: NABS. Soft, non-tender and non-distended. No HSM.
   Extremity: Warm, with trace edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Sensation intact grossly.
   Labs / Radiology
   346 K/uL
   10.9 g/dL
   113 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   143 mEq/L
   34.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
                             [**2136-5-12**]  11:13 AM
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
                             [**2136-5-14**]  03:52 AM
   WBC
   11.0
   7.7
   12.1
   11.6
   12.0
   9.2
   9.7
   Hct
   38.4
   38.6
   39.3
   33.4
   37.3
   34.2
   34.1
   Plt
   255
   275
   280
   349
   402
   352
   346
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   32
   35
   36
   Glucose
   173
   198
   110
   109
   111
   113
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: Improved RLL opacity, worsening Left sided haziness
   Microbiology: Sputum Oral Flora, resend
   Assessment and Plan
   A 70 yo woman with known COPD initially presenting with SBO and hypoxia
   thought secondary to COPD and overlying pneumonia likely secondary to
   aspiration, initially improving but now transferred back to [**Hospital Unit Name 44**] in the
   setting of acute respiratory distress.
   # Hypoxia/respiratory distress: Leading diagnosis remains aspiration
   pneumnia in setting of COPD. An acute aspiration event on the floor
   today, leading to an aspiration pneumonitis, is also a consideration.
   Interestingly, the pt
s CXRs have consistently shown a predomonent
   left-sided oppacification; as she has not had any cardiac work-up to
   this point, an elevent of heart failure or valvulopathy could certainly
   be contributing to her clinical picture. BNP elevated.  Less likely but
   still possible would a process such as tracheomalatia or vocal cord
   dysfunction.  Patient is also very upset at still being in hospital.
   She has been off her medications and the combination of the two may be
   causing her to act out her frustration.  Patient improved when night
   team talked her into taking slow deep breaths.
   -continue vanc/ceftriaxone/Flagyl for now (plan 8 day course; day 1 =
   [**2136-5-6**])
   -continue prednisone 60mg daily; continue albuterol and ipratropium inh
   -echo,
   -repeat CXR
   -change diet to NPO for now
   # Leukocytosis/fever: Pt remains without positive cultures. Although
   rising WBC count and low-grade fever are suggestive of infection, do
   not believe there is a clear indication to further change pt
s current
   antibiotic regimen acutely.
   -repeat cultures
   -continue current antibiotics as above
   # Drop in hematocrit: No signs/symptoms of active bleed. Unclear cause
   for drop in hct from 39
   -active type and screen
   -guiaic stools
   -recheck hct in afternoon
   # Nausea/vomiting/SBO: Etiology of development of SBO in this patient
   without prior abdominal surgery is unclear.  Currently resolved; pt is
   without NGT.
   -follow abdominal exam
   -will follow up speech and swallow recs for TF and PO diet.
   # Polycythemia: Resolved. Was likely due to COPD and
   hemoconcentration.  Will continue to monitor HCT, nothing more to do
   for now.
   # Bipolar Disorder: holding home meds until clinically stablilizes
   # GERD: Continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-05-14 12:50:00 Physician Attending Progress Note
Chief Complaint: hypoxia, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo Fwith cognitive impairment, copd, with initial admission for SBO,
   course c/b significant aspiration events with bilateral PNA and
   collapse in setting of n/v now with recurrent episode of  hypoxemic
   resp failure transiently requiring BIPAP
   24 Hour Events:
   BiPAP weaned to NC O2
   History obtained from [**Hospital 85**] Medical records, ho
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-5-13**] 04:26 PM
   Vancomycin - [**2136-5-14**] 08:30 AM
   Metronidazole - [**2136-5-14**] 12:16 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-14**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-14**] 08:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-14**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 108 (89 - 112) bpm
   BP: 121/69(81) {95/49(60) - 121/79(87)} mmHg
   RR: 17 (17 - 36) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,720 mL
                                                                    501 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,000 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    975 mL
   Urine:
                                                                  1,790 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 492 (492 - 492) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 18 cmH2O
   SpO2: 91%
   ABG: ///34/
   Ve: 13.2 L/min
   Physical Examination
   General Appearance: obese F, alert, coughing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous diffusely: ) exp wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  warm, without rash
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement:non focal, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   346 K/uL
   113 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   143 mEq/L
   34.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2136-5-6**]  07:35 PM
                             [**2136-5-7**]  04:23 AM
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
                             [**2136-5-12**]  11:13 AM
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
                             [**2136-5-14**]  03:52 AM
   WBC
   11.0
   7.7
   12.1
   11.6
   12.0
   9.2
   9.7
   Hct
   38.4
   38.6
   39.3
   33.4
   37.3
   34.2
   34.1
   Plt
   255
   275
   280
   349
   402
   352
   346
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   32
   35
   36
   Glucose
   173
   198
   110
   109
   111
   113
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Imaging: cxr--midly worsening int pattern L, loss of L hemid--slightly
   wet, picc line up IJ on r
   Microbiology: sputum--oral flora
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71 yo F with cognitive impairment, copd, initial admission for SBO,
   course c/b significant aspiration events with bilateral PNA and
   collapse in setting of n/v now with recurrent episode of  hypoxia/resp
   distress
   # hypoxia/resp distress
       Suspect is multifactorial with recurrent aspiration high on ddx
   given time course of sx in relation to eating, +/- COPD exacerbation,
   and diastolic dysfunction with cardiac wheezing noting some improvement
   after lasix/diuresis
       CXR does appear slightly worse--with increased interstitial
   markings b/l
   --Will obtain TTE to assess cardiac fx (note BNP 2300 on transfer)
   --Repeat BNP
   --Repeat lasix 10 IV X 1
   --Discuss additional work-up change to diet with speech and swallow as
   pt again became more tachypneic during am rounds after swallow study
   suggesting significant aspiration issues
   -- Continue Vanc/Ceftriaxone/Flagyl for asp pna
   --chest PT/sx
   --COPD also playing probable role
         continue pred 60 and reassess for taper
         continue nebs
   --Monitor closely for development of hypercarbia, low threshold for
   repeating abg, if worsens would trial NIPPV.
   --Repeat CXR in am
   #tachycardia
   In setting of resp distress and coughing
   Diurese as above
   Monitor closely for recurrent aspiration events with eating
   # Anemia
h/h now  stable
   --guaiac stools
   #  Psych
restart meds
olanzapine, Clonazepam
   SW assistance appreciated, in process of obtaining legal guardian
   Remaining issues as per [**Name (NI) **]
   ICU Care
   Nutrition: careful monitoring with eating, speech/swallow input as
   above
   Glycemic Control:  Regular insulin sliding scale, Comments: start ssi
   while on steroids
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, remains tenuous
   Total time spent: 40 minutes

2136-05-15 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -had an episode of desat to ~85% requiring increase in NC O2 to 6L
   -->ABG 7.44/91/54
   -discuss aspiration risk with S&S: NPO for now
   -echo with EF 55%, mild MR, PA HTN
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-5-14**] 04:10 PM
   Vancomycin - [**2136-5-14**] 07:50 PM
   Metronidazole - [**2136-5-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-14**] 08:30 AM
   Furosemide (Lasix) - [**2136-5-14**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2136-5-14**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-15**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 75 (70 - 112) bpm
   BP: 129/74(87) {109/63(74) - 137/82(95)} mmHg
   RR: 25 (17 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    966 mL
                                                                    172 mL
   PO:
             TF:
   IVF:
                                                                    966 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    710 mL
   Urine:
                                                                  2,750 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,784 mL
                                                                   -538 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   RR (Spontaneous): 20
   FiO2: 35%
   SpO2: 94%
   ABG: 7.44/54/91/33/10
   PaO2 / FiO2: 260
   Physical Examination
   Gen: Uncomfortable appearing adult woman, ill but not in extremis.
   Lung: Diffuse rhonchi throughout. Wheezes on expiration.
   Heart: S1 & S2 regular without murmur
   Abdomen: NABS. Soft, non-tender and non-distended. No HSM.
   Extremity: Warm, with trace edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented. CN 2-12 intact grossly
   Labs / Radiology
   366 K/uL
   11.7 g/dL
   102 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   15 mg/dL
   100 mEq/L
   142 mEq/L
   35.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
                             [**2136-5-12**]  11:13 AM
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
                             [**2136-5-14**]  03:52 AM
                             [**2136-5-14**]  03:31 PM
                             [**2136-5-15**]  04:37 AM
   WBC
   7.7
   12.1
   11.6
   12.0
   9.2
   9.7
   8.7
   Hct
   38.6
   39.3
   33.4
   37.3
   34.2
   34.1
   35.9
   Plt
   275
   280
   349
   [**Telephone/Fax (3) 9042**]
   366
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   TCO2
   35
   36
   38
   Glucose
   198
   110
   109
   111
   113
   102
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: proBNP 3135
   Imaging: [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]. LV Normal, EF >55%. No AS, 1+ AR. No MVP. [**1-6**]+ MR.
   Mild PaHtn (28-30). No effusion.
   CXR: R PICC now midline. Decreased opacity RUL. LLL decreased haziness.
   Microbiology: None
   Assessment and Plan
   A 70 yo woman with known COPD initially presenting with SBO and hypoxia
   thought secondary to COPD and overlying pneumonia likely secondary to
   aspiration, returning to the [**Hospital Unit Name 44**] for respiratory distress.  She still
   has episodes of acute desaturation associated with PO intake that can
   be managed with increased nasal o2, but no evidence that her swallowing
   has improved.
   # Aspiration Pneumonia/Pneumonitis:  Ms. [**Known lastname 8842**] continues to have
   episodes of acute desaturation to the mid-80s after any PO intake.  We
   are able to correct her with increased Nasal O2 (~6L).  She does show
   continued signs of aspiration and poor secretion management, requiring
   intermittent suction.  The patient is still unable to tolerate POs
   despite her desire to eat.  It is unclear if the aspiration is a
   chronic problem or acute (acute on chronic) from recent intubations.
   - Continued Speech & Swallow input appreciated
   - NPO, will place NG tube for Tube feeds (+ Nutrition Consult)
   - Insulin Sliding Scale for Diabetes induced hyperglycemia
   - Will discuss with patient, caregiver, PCP her wishes regarding G tube
   placement
   - All meds to oral (Prednisone->Methylprednisolone)
   - Begin Steroid taper from Prednisone 60 to Methylprednisolone 40
   (equivalent Pred 50).  Very slow taper given severity of COPD and her
   history of steroid tapers.  Continue HISS while on steroids
   # Bipolar Disorder: Convert Clonazepam to Ativan 1-2mg IV BID while NPO
   # GERD: Continue PPI
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Humalog Insulin Sliding Scale
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2136-05-15 13:45:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yo F with cognitive impairment, copd, initial admission for SBO,
   course c/b significant aspiration events with bilateral PNA and
   collapse in setting of n/v now with recurrent episode of  hypoxia/resp
   distress likely from recurrent aspiration events
   24 Hour Events:
   IV lasix X 1
   TTE
   recurrent episode of resp distress/hypoxia after sips of water
   History obtained from [**Hospital 85**] Medical records, ho
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-5-14**] 04:10 PM
   Metronidazole - [**2136-5-15**] 04:00 AM
   Vancomycin - [**2136-5-15**] 08:35 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2136-5-14**] 02:00 PM
   Pantoprazole (Protonix) - [**2136-5-15**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-15**] 08:45 AM
   Other medications:
   per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-15**] 01:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 92 (70 - 96) bpm
   BP: 124/81(92) {109/63(76) - 137/82(95)} mmHg
   RR: 28 (17 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    966 mL
                                                                    444 mL
   PO:
             TF:
   IVF:
                                                                    966 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                  1,185 mL
   Urine:
                                                                  2,750 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,784 mL
                                                                   -741 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.44/54/91/33/10
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.7 g/dL
   366 K/uL
   102 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   15 mg/dL
   100 mEq/L
   142 mEq/L
   35.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2136-5-7**]  04:34 AM
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
                             [**2136-5-12**]  11:13 AM
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
                             [**2136-5-14**]  03:52 AM
                             [**2136-5-14**]  03:31 PM
                             [**2136-5-15**]  04:37 AM
   WBC
   7.7
   12.1
   11.6
   12.0
   9.2
   9.7
   8.7
   Hct
   38.6
   39.3
   33.4
   37.3
   34.2
   34.1
   35.9
   Plt
   275
   280
   349
   [**Telephone/Fax (3) 9042**]
   366
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   TCO2
   35
   36
   38
   Glucose
   198
   110
   109
   111
   113
   102
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: bnp--3100 (2395)
   Imaging: TTE--L atrial dil, nl LV, ef 55%, mild PA htn
   cxr--stable RUL infiltrate, improving L base
   Microbiology: no new data
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71 yo F with cognitive impairment, copd, initial admission for SBO,
   course c/b significant aspiration events with bilateral PNA and
   collapse in setting of n/v now with recurrent episode of  hypoxia/resp
   distress likely from recurrent asp events
   # hypoxia/resp distress
   Suspect is multifactorial with recurrent aspiration high on ddx given
   time course of sx in relation to eating, +/- COPD exacerbation, and
   diastolic dysfunction with cardiac wheezing noting some improvement
   after lasix/diuresis
   Now clearly with recurrent episode after sips making aspiration most
   likely
   ---NGT for meds, TFs
   -- discuss with PCP need for more definitive treatment--PEG tube and
   need for possible gaurdienship
   -- Discuss additional work-up change to diet with speech and swallow as
   pt again became more tachypneic during am rounds after swallow study
   suggesting significant aspiration issues
   -- Continue Ceftriaxone/Flagyl for asp pna treat to complete 7 days
   can d/c vanco
   --chest PT/sx, nebs
   --COPD also playing probable role
        continue pred 60 begin slow taper
   --Monitor closely for development of hypercarbia, low threshold for
   repeating abg, if worsens would trial NIPPV.
   #tachycardia
   In setting of resp distress and coughing
   Diurese as above
   resolved
   # Anemia
h/h now stable
   --guaiac stools
   #dispo--moving toward floor ready but will further address PO access
   issue prior
   #  Psych
restart meds
olanzapine, Clonazepam
   SW assistance appreciated, in process of obtaining legal guardian
   Remaining issues as per [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2136-05-16 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-15**]:
   NG Tube place
   Flexiseal placed
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-15**] 08:35 AM
   Ceftriaxone - [**2136-5-15**] 04:20 PM
   Metronidazole - [**2136-5-16**] 04:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-15**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-15**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-16**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 94 (77 - 107) bpm
   BP: 128/76(89) {114/63(76) - 136/90(98)} mmHg
   RR: 25 (20 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    617 mL
                                                                    240 mL
   PO:
             TF:
                                                                     17 mL
                                                                     70 mL
   IVF:
                                                                    600 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    380 mL
   Urine:
                                                                  2,235 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,618 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   368 K/uL
   10.9 g/dL
   88 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.8 mEq/L
   14 mg/dL
   100 mEq/L
   143 mEq/L
   33.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
                             [**2136-5-12**]  11:13 AM
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
                             [**2136-5-14**]  03:52 AM
                             [**2136-5-14**]  03:31 PM
                             [**2136-5-15**]  04:37 AM
                             [**2136-5-16**]  03:57 AM
   WBC
   7.7
   12.1
   11.6
   12.0
   9.2
   9.7
   8.7
   7.8
   Hct
   38.6
   39.3
   33.4
   37.3
   34.2
   34.1
   35.9
   33.6
   Plt
   275
   280
   349
   [**Telephone/Fax (2) 9050**]68
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   TCO2
   36
   38
   Glucose
   198
   110
   109
   111
   113
   102
   88
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Microbiology: UCX [**5-12**] yeast
   BCX [**5-12**] PENDING NGTD
   GRAM STAIN sputum-no organisms
   MRSA negative
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71 yo F with cognitive impairment, copd, initial admission for SBO,
   course c/b significant aspiration events with bilateral PNA and
   collapse in setting of n/v now with recurrent episode of  hypoxia/resp
   distress.
   Hypoxia and episodes of resp distress are likely multifactorial with
   recurrent aspiration highest on ddx given time course of sx in relation
   to eating, +/- COPD exacerbation and component of diastolic dysfunction
   with cardiac wheezing noting some improvement after lasix/diuresis.
   Without clear explanation for aspiration risk and unclear whether this
   is chronic or new.
   For now would place NGT for meds and possible TFs for nutrition until
   swallow can be reassessed.  If continued to be problem[**Name (NI) 1114**] a PEG tube
   will need to be addressed.
   Will discuss with pt
s PCP need for more definitive treatment such as
   PEG tube as well as pt
s possible need for legal guardianship to assist
   with her decision making.
   Would continue Ceftriaxone/Flagyl for asp pna to complete 7 days--can
   d/c vanco.
   As COPD is likely also playing role would continue pred but begin slow
   taper
   Remaining issues as per Housestaff
   A 70 yo woman with known COPD initially presenting with SBO and hypoxia
   thought secondary to COPD and overlying pneumonia likely secondary to
   aspiration, returning to the [**Hospital Unit Name 44**] for respiratory distress.  She still
   has episodes of acute desaturation associated with PO intake that can
   be managed with increased nasal o2, but no evidence that her swallowing
   has improved.
   # Aspiration Pneumonia/Pneumonitis:  Ms. [**Known lastname 8842**] continues to have
   episodes of acute desaturation to the mid-80s after any PO intake.  We
   are able to correct her with increased Nasal O2 (~6L).  She does show
   continued signs of aspiration and poor secretion management, requiring
   intermittent suction.  The patient is still unable to tolerate POs
   despite her desire to eat.  It is unclear if the aspiration is a
   chronic problem or acute (acute on chronic) from recent intubations.
   - Continued Speech & Swallow input appreciated
   - NPO, will place NG tube for Tube feeds (+ Nutrition Consult)
   - Insulin Sliding Scale for Diabetes induced hyperglycemia
   - Will discuss with patient, caregiver, PCP her wishes regarding G tube
   placement
   - All meds to oral (Prednisone->Methylprednisolone)
   - Begin Steroid taper from Prednisone 60 to Methylprednisolone 40
   (equivalent Pred 50).  Very slow taper given severity of COPD and her
   history of steroid tapers.  Continue HISS while on steroids
   # Bipolar Disorder: Convert Clonazepam to Ativan 1-2mg IV BID while NPO
   # GERD: Continue PPI
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2136-5-15**] 10:20 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-05-16 12:56:00 Physician Attending Progress Note
Chief Complaint: hypoxia/resp distress from presumed recurrent
   aspiration
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NGT placed
   O2 weaned to 5 L NC
   OOB
chair
   History obtained from Patient, ho
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-15**] 08:35 AM
   Ceftriaxone - [**2136-5-15**] 04:20 PM
   Metronidazole - [**2136-5-16**] 04:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-15**] 04:20 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-16**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 98 (77 - 107) bpm
   BP: 134/72(88) {114/67(78) - 136/90(98)} mmHg
   RR: 22 (20 - 33) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    617 mL
                                                                    354 mL
   PO:
             TF:
                                                                     17 mL
                                                                    127 mL
   IVF:
                                                                    600 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    380 mL
   Urine:
                                                                  2,235 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,618 mL
                                                                    -26 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   368 K/uL
   88 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.8 mEq/L
   14 mg/dL
   100 mEq/L
   143 mEq/L
   33.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2136-5-8**]  04:25 AM
                             [**2136-5-9**]  04:20 AM
                             [**2136-5-12**]  03:19 AM
                             [**2136-5-12**]  11:13 AM
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
                             [**2136-5-14**]  03:52 AM
                             [**2136-5-14**]  03:31 PM
                             [**2136-5-15**]  04:37 AM
                             [**2136-5-16**]  03:57 AM
   WBC
   7.7
   12.1
   11.6
   12.0
   9.2
   9.7
   8.7
   7.8
   Hct
   38.6
   39.3
   33.4
   37.3
   34.2
   34.1
   35.9
   33.6
   Plt
   275
   280
   349
   [**Telephone/Fax (2) 9050**]68
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   TCO2
   36
   38
   Glucose
   198
   110
   109
   111
   113
   102
   88
   Other labs: PT / PTT / INR:13.5/39.3/1.2, ALT / AST:19/21, Alk Phos / T
   Bili:80/0.3, Differential-Neuts:92.4 %, Band:18.0 %, Lymph:4.4 %,
   Mono:2.9 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL,
   LDH:249 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Imaging: cxr reviewed-- b/l infiltrates
rul infiltrate, hazy left
   base
atelectaisis/prob small pleural effusion,  stable pulm edema,
   ngt,in position
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71 yo F with cognitive impairment, copd, initial admission for SBO,
   course c/b significant aspiration events with bilateral PNA and
   collapse in setting of n/v now with recurrent episode of  hypoxia/resp
   distress.
   Recurrent aspiration highest on ddx given time course of sx in relation
   to eating, +/- COPD exacerbation which we are treating and component of
   diastolic dysfunction with cardiac wheezing noting some improvement
   after lasix/diuresis. She failed a [**5-9**] video swallow but has been
   cleared on most recent swallow study for thick nector diet. Despite
   this she has had observed aspiration when taking POs. There have been
   no recurrent events of hypoxia since pt has been NPO and following NGT
   placement.  We suspect this is either a chronic issue or that pt is
   still recovering her swallow (? Irritation or insult with intubation)
   following recent, though brief, intubation.
   Agree with plan to reassess swallow in [**1-6**] days.  For now would
   continue NGT for meds and TFs for nutrition until swallow can be
   reassessed.  Pending reassessment
issue of feeding tube may need to be
   addressed.  We are in process of clarifying obtaining health care proxy
   and or guardian to assist pt with her decision making.with help of her
   PCP and social work .
   Would continue Ceftriaxone/Flagyl for asp pna to complete 7 days. Will
   reimage chest with CT to better assess rul and L base. Remains af with
   stable wbc ct.  Continue slow prednisone taper.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2136-5-15**] 10:20 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2136-5-11**] 09:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for Transfer to floor
   Total time spent: 40 minutes

2136-05-18 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2136-5-17**] 02:29 PM
   patient came with PICC line - single lumen
   [**5-17**]: Transferred back to [**Hospital Unit Name 44**] for respiratory distress
   - O2 Sats initially fine, but later fell to mid-80s on 5L NC, also ?
   somewhat more confused than baseline-->ABG 7.5/51/49, CXR appeared
   basically unchanged from earlier in the day--> O2 Sat spontaneously
   back up into the mid-90s
   - mildly agitated, complaining that she can't sleep; olanzapine was
   spit out into the nebulizer mask; gave small dose Haldol
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2136-5-15**] 08:35 AM
   Ceftriaxone - [**2136-5-17**] 04:00 PM
   Metronidazole - [**2136-5-18**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-17**] 09:35 PM
   Lorazepam (Ativan) - [**2136-5-17**] 10:24 PM
   Haloperidol (Haldol) - [**2136-5-18**] 01:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-18**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 89 (77 - 100) bpm
   BP: 127/66(80) {113/47(66) - 138/90(99)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.2 kg (admission): 76.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,200 mL
                                                                  1,038 mL
   PO:
             TF:
   IVF:
                                                                  1,200 mL
                                                                  1,038 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    600 mL
   Urine:
                                                                    740 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    460 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 98%
   ABG: 7.50/51/49/35/13
   PaO2 / FiO2: 98
   Physical Examination
   Gen:  elderly woman in moderate distress, on venti mask
   HEENT:  dry mucous membranes
   CV:  normal S1/S2, no murmurs
   Lungs:  diffuse rhonchorus breath sounds
   Abdomen:  soft, nontender, nondistended
   Skin:  maculo-papular rash on buttocks
   Neurologic:  alert and oriented, answers simple questions but does not
   follow complex commands
   Labs / Radiology
   352 K/uL
   11.7 g/dL
   144 mg/dL
   0.6 mg/dL
   35 mEq/L
   2.7 mEq/L
   10 mg/dL
   101 mEq/L
   144 mEq/L
   35.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2136-5-12**]  02:17 PM
                             [**2136-5-13**]  05:16 AM
                             [**2136-5-14**]  03:52 AM
                             [**2136-5-14**]  03:31 PM
                             [**2136-5-15**]  04:37 AM
                             [**2136-5-16**]  03:57 AM
                             [**2136-5-17**]  04:10 PM
                             [**2136-5-17**]  10:00 PM
                             [**2136-5-18**]  02:18 AM
                             [**2136-5-18**]  04:26 AM
   WBC
   12.0
   9.2
   9.7
   8.7
   7.8
   8.7
   8.6
   Hct
   37.3
   34.2
   34.1
   35.9
   33.6
   38.4
   35.5
   Plt
   [**Telephone/Fax (3) **]66
   368
   368
   352
   Cr
   0.5
   0.6
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   TCO2
   38
   42
   41
   Glucose
   111
   113
   102
   88
   186
   144
   Other labs: PT / PTT / INR:13.4/34.6/1.2, CK / CKMB /
   Troponin-T:13/2/<0.01, ALT / AST:14/19, Alk Phos / T Bili:69/0.5,
   Differential-Neuts:92.4 %, Band:18.0 %, Lymph:5.1 %, Mono:1.7 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:267 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOXEMIA
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71yF with COPD and cognitive impairment who presented initially with
   SBO, now with continued episodes of hypoxia and aspiration.
   #) Hypoxia/pneumonia/respiratory distress:  She continues to have
   episodes of significant hypoxia. Possibilities include PE (especially
   concerned given tachycardia this morning, although there is an absence
   of respiratory alkalosis), mucous plugging,  or possibly recurrent
   aspiration given clinical history and CT findings.  There was also a
   question of communication between esophagus and trachea on CT, which
   could be contributing to recurrent aspiration.   However, CXR right
   after a hypoxic event last night did not show worsening of CXR, and the
   finding on CT may be artifact.  A remote possible explanation of
   hypoxia would be intermittent R
L shunting, perhaps from PFO. Low
   suspicion for infectious etiology given lack of leukocytosis or
   fever.   She also likely has underlying COPD that is probably
   contributing.
   - empiric treatment for PE with lovenox 1 mg/kg
   - CTA for r/o PE
   - TTE with bubble to evaluate for PFO
   - currently on a slow steroid taper for COPD; plan to continue current
   dose for now
   - continue albuterol/ipratropium nebulizers
   - chest physical therapy
   - consider bronchoscopy to evaluate anatomy
   - follow CXR
   - will hold off on barium study to evaluate for fistula for now
   .
   #) Rash:  reportedly unchanged
   - continue to monitor
   .
   #) Nausea/vomiting/SBO: Resolved.
   .
   #) Bipolar disorder:  on Ativan and olanzapine at home
   - continue current meds
   .
   #) Access. PICC.
   .
   #) Code. Full code. Awaiting discussion on guardianship.
   .
   #) Dispo. [**Hospital Unit Name 44**] for now.
   - discuss guardianship issues with social work
   .
   ICU Care
   Nutrition:  NPO, consider Dobhoff for nutrition
   Glycemic Control:
   Lines:  PICC
   PICC Line - [**2136-5-17**] 02:29 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code pending guardianship
   Disposition:

2136-05-19 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CTA unclear, decided to not continue lovenox as she has LLL mass, not
   obvious PE
   -TTE showed no PFO
   - NG tube placed
   - ABG improved
   -One desat to 89% yesterday at 2PM
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-5-17**] 04:00 PM
   Metronidazole - [**2136-5-18**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-18**] 07:44 AM
   Lorazepam (Ativan) - [**2136-5-18**] 07:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-19**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 100 (86 - 114) bpm
   BP: 123/82(92) {101/49(63) - 135/82(92)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.2 kg (admission): 76.1 kg
   Height: 63 Inch
             Total In:
                                                                  2,719 mL
                                                                  1,043 mL
   PO:
             TF:
   IVF:
                                                                  2,719 mL
                                                                  1,043 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  1,005 mL
   Urine:
                                                                  2,240 mL
                                                                  1,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.47/50/81.[**Numeric Identifier 607**]/36/10
   PaO2 / FiO2: 162
   Physical Examination
   Gen:  elderly woman in moderate distress, on venti mask
   HEENT:  dry mucous membranes
   CV:  normal S1/S2, no murmurs
   Lungs:  diffuse rhonchorus breath sounds
   Abdomen:  soft, nontender, nondistended
   Skin:  maculo-papular rash on buttocks
   Neurologic:  alert and oriented, answers simple questions but does not
   follow complex commands
   Labs / Radiology
   339 K/uL
   12.1 g/dL
   121 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.0 mEq/L
   7 mg/dL
   103 mEq/L
   144 mEq/L
   37.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2136-5-14**]  03:52 AM
                             [**2136-5-14**]  03:31 PM
                             [**2136-5-15**]  04:37 AM
                             [**2136-5-16**]  03:57 AM
                             [**2136-5-17**]  04:10 PM
                             [**2136-5-17**]  10:00 PM
                             [**2136-5-18**]  02:18 AM
                             [**2136-5-18**]  04:26 AM
                             [**2136-5-18**]  06:53 PM
                             [**2136-5-19**]  04:27 AM
   WBC
   9.7
   8.7
   7.8
   8.7
   8.6
   8.8
   Hct
   34.1
   35.9
   33.6
   38.4
   35.5
   37.0
   Plt
   346
   366
   368
   368
   352
   339
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TropT
   <0.01
   TCO2
   38
   42
   41
   37
   Glucose
   113
   102
   88
   186
   144
   121
   Other labs: PT / PTT / INR:13.4/34.6/1.2, CK / CKMB /
   Troponin-T:13/2/<0.01, ALT / AST:14/19, Alk Phos / T Bili:69/0.5,
   Differential-Neuts:92.4 %, Band:18.0 %, Lymph:5.1 %, Mono:1.7 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:267 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR:
   LENI: No DVT in both lower extremities
   Ct Scan: 1. Severely limited study secondary to cardiac and respiratory
   motion artifact. Evaluation of the lobar, segmental and subsegmental
   pulmonary arteries is non- diagnostic. No massive central pulmonary
   embolus identified.
   2. Improving multifocal pneumonia with persistent collapse of the left
   lower
   lobe and partial opacification of the left lower lobe bronchus. An
   obstructing lesion cannot be excluded, and bronchoscopy is recommended
   for
   further evaluation.
   3. Mediastinal and hilar lymphadenopathy, likely reactive.
   4. Stable mild pulmonary edema and small bilateral pleural effusions.
   5. Stable sternal fracture.
   6. Marked tracheomalacia.
   Assessment and Plan
   71yF with COPD and cognitive impairment who presented initially with
   SBO, now with continued episodes of hypoxia and aspiration.
   #) Hypoxia/pneumonia/respiratory distress:  Patient had one desat
   yesterday. PE unlikely given negative LENIs and clinical picture though
   CTA non-diagnostic, PFO ruled out with TTE w/bubble study, unlikely
   recurrent aspiration as patient NPO. .    Low suspicion for infectious
   etiology given lack of leukocytosis or fever.    CXR appears to have
   mucous plugging/collapse of the lllobe which is likely just mucous
   plugging, but if patient does not improve may need bronch to rule out
   malignancy. She also likely has underlying COPD that is probably
   contributing.
   - currently on a slow steroid taper for COPD; plan to continue current
   dose for now
   - continue albuterol/ipratropium nebulizers
   - chest physical therapy
   - Add Mucomyst 10% TID
   -Put on humidified 02
   -sit patient in chair, allow her to take fluids as aspiration unlikely.
   - follow CXR
   - will hold off on barium study to evaluate for fistula for now
   .
   #) Rash:  reportedly unchanged
   - continue to monitor
   .
   #) Nausea/vomiting/SBO: Resolved.
   .
   #) Bipolar disorder:  - continue Ativan and olanzapine
   .
   #) Access. PICC.
   .
   #) Code. Full code. Awaiting guardianship.
   .
   #) Dispo. [**Hospital Unit Name 44**] for now.
   - discuss guardianship issues with social work
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-17**] 02:29 PM
   20 Gauge - [**2136-5-18**] 03:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 8842**] had had episodic desaturation overnight but denies
   respiratory distress. she has had minimal secretion output too. She is
   eager to eat.
   Exam notable for edentulous WF with dry mucous membranes, diminished
   breath sounds left > right, scant edema and distant heart sounds. Tm of
   99.4 BP of 113/60 HR 74 RR 14 with sats of 95%  on 3lpm .
   Labs notable for WBC  8.8K, HCT 37 , K+ 4 , Cr 0.6 , ABG with met
   alkalosis( Ph of 7.47). CXR with left LL atelectasis/ PNA . No evidence
   for PE.
   Agree with plan to slowly advance diet, provide humidified O2, help
   with secretion clearance( mucomyst, acapella) and maintain strict
   aspiration precautions. She will transition to a chair today nd
   possibly the floor later today. She has extensive underlying COPD (
   FEV1 of  0.77 in [**2133**]) and will likely need home O2 too. continue slow
   steroid taper.
   Remainder of plan as outlined above.
   Patient is stable
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2136-5-19**] 03:52 PM ------

2136-05-20 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got chest PT and nebs
   - O2 Sats better
   - pulled out NG tube
   - this morning, she sneaked custard and ate it
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-5-17**] 04:00 PM
   Metronidazole - [**2136-5-18**] 04:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-19**] 07:44 AM
   Heparin Sodium - [**2136-5-19**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-20**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 106 (82 - 119) bpm
   BP: 127/56(72) {114/56(72) - 134/100(108)} mmHg
   RR: 23 (20 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.2 kg (admission): 76.1 kg
   Height: 63 Inch
             Total In:
                                                                  2,210 mL
                                                                    513 mL
   PO:
             TF:
   IVF:
                                                                  2,210 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                  3,015 mL
                                                                    740 mL
   Urine:
                                                                  3,015 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -805 mL
                                                                   -227 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   Gen:  elderly woman in no distress, asking for food, face tent
   currently on neck
   HEENT:  dry mucous membranes
   CV:  normal S1/S2, no murmurs
   Lungs:  diffuse rhonchorus breath sounds
   Abdomen:  soft, nontender, nondistended
   Skin:  maculo-papular rash on buttocks
   Neurologic:  alert and oriented, answers simple questions but does not
   follow complex commands
   Labs / Radiology
   305 K/uL
   12.6 g/dL
   95 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   8 mg/dL
   103 mEq/L
   142 mEq/L
   39.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2136-5-14**]  03:31 PM
                             [**2136-5-15**]  04:37 AM
                             [**2136-5-16**]  03:57 AM
                             [**2136-5-17**]  04:10 PM
                             [**2136-5-17**]  10:00 PM
                             [**2136-5-18**]  02:18 AM
                             [**2136-5-18**]  04:26 AM
                             [**2136-5-18**]  06:53 PM
                             [**2136-5-19**]  04:27 AM
                             [**2136-5-20**]  04:27 AM
   WBC
   8.7
   7.8
   8.7
   8.6
   8.8
   8.4
   Hct
   35.9
   33.6
   38.4
   35.5
   37.0
   39.0
   Plt
   366
   368
   368
   [**Telephone/Fax (3) 9093**]
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   38
   42
   41
   37
   Glucose
   102
   88
   186
   144
   121
   95
   Other labs: PT / PTT / INR:13.4/34.6/1.2, CK / CKMB /
   Troponin-T:13/2/<0.01, ALT / AST:14/19, Alk Phos / T Bili:69/0.5,
   Differential-Neuts:92.4 %, Band:18.0 %, Lymph:5.1 %, Mono:1.7 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:267 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOXEMIA
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   .
   71yF with COPD and cognitive impairment who presented initially with
   SBO, now with continued episodes of hypoxia and aspiration.
   #) Hypoxia/pneumonia/respiratory distress:  Most likely cause is
   recurrent mucous plugging with LLL pneumonia possibly secondary to
   aspiration.  Because of her underlying bad COPD, she has little
   reserve.  Investigation into other causes has not been revealing,
   including negative LENIs and non-diagnostic CTA, TTE without evidence
   of PFO.  Antibiotics stopped 2 days ago given low suspicion of
   infectious etiology and that she had completed her course for
   aspiration pneumonia.
   - currently on a slow steroid taper for COPD; plan to continue current
   dose for now
   - continue albuterol/ipratropium nebulizers
   - continue chest physical therapy
   - continue mucomysit 10% TID
   - advance diet back to pureed solids; will d/c if excessive
   coughing/clinical evidence fo aspiration
   - repeat S&S evaluation tomorrow
   - follow CXR
   - will hold off on barium study to evaluate for fistula for now
   - she may need rehab placement directly from ICU given liklihood of
   repeat desaturation if she returns to the medicine floor
   .
   #) Rash:  reportedly unchanged
   - continue to monitor
   .
   #) Nausea/vomiting/SBO: Resolved.
   .
   #) Bipolar disorder:  - continue Ativan and olanzapine
   .
   #) Access. PICC.
   .
   #) Code. Full code. Awaiting guardianship.
   .
   #) Dispo. [**Hospital Unit Name 44**] for now.
   - discuss guardianship issues with social work
   ICU Care
   Nutrition: advance to pureed solids today
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-17**] 02:29 PM
   20 Gauge - [**2136-5-18**] 03:58 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, may consider rehab screening

2136-05-21 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - O2 sats better, but intermittently hypoxic to 70's
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2136-5-20**] 01:52 PM
   Heparin Sodium (Prophylaxis) - [**2136-5-20**] 08:45 PM
   Insulin - Humalog - [**2136-5-21**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-21**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 91 (91 - 120) bpm
   BP: 103/70(75) {103/51(65) - 131/89(96)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.2 kg (admission): 76.1 kg
   Height: 63 Inch
             Total In:
                                                                  1,599 mL
                                                                     75 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    759 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,703 mL
                                                                    290 mL
   Urine:
                                                                  1,703 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -104 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   Gen:  elderly woman in no distress, asking for food, face tent
   currently on neck
   HEENT:  dry mucous membranes
   CV:  normal S1/S2, no murmurs
   Lungs:  diffuse rhonchorus breath sounds
   Abdomen:  soft, nontender, nondistended
   Skin:  maculo-papular rash on buttocks
   Neurologic:  alert and oriented, answers simple questions but does not
   follow complex commands
   Labs / Radiology
   277 K/uL
   12.7 g/dL
   110 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   14 mg/dL
   101 mEq/L
   141 mEq/L
   40.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2136-5-15**]  04:37 AM
                             [**2136-5-16**]  03:57 AM
                             [**2136-5-17**]  04:10 PM
                             [**2136-5-17**]  10:00 PM
                             [**2136-5-18**]  02:18 AM
                             [**2136-5-18**]  04:26 AM
                             [**2136-5-18**]  06:53 PM
                             [**2136-5-19**]  04:27 AM
                             [**2136-5-20**]  04:27 AM
                             [**2136-5-21**]  04:33 AM
   WBC
   8.7
   7.8
   8.7
   8.6
   8.8
   8.4
   9.0
   Hct
   35.9
   33.6
   38.4
   35.5
   37.0
   39.0
   40.4
   Plt
   366
   368
   368
   [**Telephone/Fax (3) 9093**]
   277
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   42
   41
   37
   Glucose
   102
   88
   186
   144
   121
   95
   110
   Other labs: PT / PTT / INR:13.4/34.6/1.2, CK / CKMB /
   Troponin-T:13/2/<0.01, ALT / AST:14/19, Alk Phos / T Bili:69/0.5,
   Differential-Neuts:92.4 %, Band:18.0 %, Lymph:5.1 %, Mono:1.7 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:267 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: R midline in place. Improved LLL fluid.  Slight R medial
   diaphragmatic angle lost. Prominent Aortic knob/pulmonary arterial
   knob.  Overall improved.
   Microbiology: None
   Assessment and Plan
   71yF with COPD and cognitive impairment who presented initially with
   SBO, now with continued episodes of hypoxia and aspiration.
   #) Hypoxia/pneumonia/respiratory distress:  Mucus plugging, ? LLL PNA,
   known COPD.
   - currently on a slow steroid taper for COPD; plan to continue current
   dose for now
   - continue albuterol/ipratropium nebulizers
   - continue chest physical therapy
   - continue mucomysit 10% TID
   - advance diet back to pureed solids; will d/c if excessive
   coughing/clinical evidence fo aspiration
   - repeat S&S evaluation tomorrow
   - follow CXR
   - will hold off on barium study to evaluate for fistula for now
   - she may need rehab placement directly from ICU given likliehood of
   repeat desaturation if she returns to the medicine floor
   #) Rash:  reportedly unchanged
   #) Nausea/vomiting/SBO: Resolved.
   #) Bipolar disorder:  - continue Ativan and olanzapine
   #) Access.  Mindline
   #) Code. Full code. Awaiting guardianship.
   #) Dispo. [**Hospital Unit Name 44**] for now.
   - discuss guardianship issues with social work
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-17**] 02:29 PM
   20 Gauge - [**2136-5-18**] 11:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2136-05-22 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events overnight
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-21**] 08:00 PM
   Lorazepam (Ativan) - [**2136-5-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-22**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 96 (89 - 119) bpm
   BP: 123/67(80) {109/60(72) - 141/80(90)} mmHg
   RR: 25 (19 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.2 kg (admission): 76.1 kg
   Height: 63 Inch
                  Total In:
                                                                    905 mL
                  PO:
                                                                    750 mL
                  TF:
   IVF:
                                                                    155 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    405 mL
   Urine:
                                                                    920 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                   -405 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   Gen:  elderly woman in no distress, asking for food, face tent
   currently on neck
   HEENT:  dry mucous membranes
   CV:  normal S1/S2, no murmurs
   Lungs:  diffuse rhonchorus breath sounds
   Abdomen:  soft, nontender, nondistended
   Skin:  maculo-papular rash on buttocks
   Neurologic:  alert and oriented, answers simple questions but does not
   follow complex commands
   Labs / Radiology
   226 K/uL
   12.8 g/dL
   136 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.1 mEq/L
   19 mg/dL
   100 mEq/L
   140 mEq/L
   39.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2136-5-16**]  03:57 AM
                             [**2136-5-17**]  04:10 PM
                             [**2136-5-17**]  10:00 PM
                             [**2136-5-18**]  02:18 AM
                             [**2136-5-18**]  04:26 AM
                             [**2136-5-18**]  06:53 PM
                             [**2136-5-19**]  04:27 AM
                             [**2136-5-20**]  04:27 AM
                             [**2136-5-21**]  04:33 AM
                             [**2136-5-22**]  03:56 AM
   WBC
   7.8
   8.7
   8.6
   8.8
   8.4
   9.0
   10.5
   Hct
   33.6
   38.4
   35.5
   37.0
   39.0
   40.4
   39.5
   Plt
   368
   368
   352
   [**Telephone/Fax (3) 9104**]
   226
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   42
   41
   37
   Glucose
   88
   186
   144
   121
   95
   110
   136
   Other labs: PT / PTT / INR:12.8/31.4/1.1, CK / CKMB /
   Troponin-T:13/2/<0.01, ALT / AST:14/19, Alk Phos / T Bili:69/0.5,
   Differential-Neuts:92.4 %, Band:18.0 %, Lymph:5.1 %, Mono:1.7 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:267 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
 HYPOXEMIA
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71yF with COPD and cognitive impairment who presented initially with
   SBO, now with continued episodes of hypoxia and aspiration.
   #) Hypoxia/pneumonia/respiratory distress:  Most likely cause is
   recurrent mucous plugging with LLL pneumonia possibly secondary to
   aspiration.  Because of her underlying bad COPD, she has little
   reserve.  Investigation into other causes has not been revealing,
   including negative LENIs and non-diagnostic CTA, TTE without evidence
   of PFO.  Antibiotics stopped 2 days ago given low suspicion of
   infectious etiology and that she had completed her course for
   aspiration pneumonia.
   - currently on a slow steroid taper for COPD; plan to continue current
   dose for now
   - continue albuterol/ipratropium nebulizers as needed
   - continue chest physical therapy
   - continue mucomysit 10% TID
   - advance diet back to pureed solids; will d/c if excessive
   coughing/clinical evidence fo aspiration
   - follow CXR
   - will hold off on barium study to evaluate for fistula for now
   - she may need rehab placement directly from ICU given liklihood of
   repeat desaturation if she returns to the medicine floor, see dispo
   below
   .
   #) Rash:  reportedly unchanged
   - continue to monitor
   .
   #) Nausea/vomiting/SBO: Resolved.
   .
   #) Bipolar disorder:  - continue Ativan and olanzapine
   .
   #) Access. PICC.
   .
   #) Code. Full code. Awaiting guardianship.
   .
   #) Dispo. [**Hospital Unit Name 44**] for now.
   - f/u PT recs
   - discuss guardianship issues with social work, otherwise patient is
   able to be accepted medically for pulmonary rehab facilities
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-17**] 02:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Awaiting placement at pulmonary rehab/guardianship
   paperwork

2136-05-23 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - No acute events overnight
   -Maintained O2 sats in the 90's overnight, last O2 sat in the 80's
   (87%) at 4PM yesterday.
    - placement and legal gurdianship in progress
   History obtained from Patient
   Allergies:
   History obtained from PatientPhenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-22**] 08:00 PM
   Lorazepam (Ativan) - [**2136-5-22**] 09:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-23**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 93 (89 - 121) bpm
   BP: 125/79(90) {97/51(64) - 161/98(113)} mmHg
   RR: 19 (19 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.2 kg (admission): 76.1 kg
   Height: 63 Inch
                  Total In:
                                                                  1,680 mL
                  PO:
                                                                  1,680 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    925 mL
                                                                      0 mL
   Urine:
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    755 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left, Rhonchorous:
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: buttocks
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   No pending Micro
   CXR pending
   Labs / Radiology
   210 K/uL
   13.5 g/dL
   114 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.4 mEq/L
   18 mg/dL
   96 mEq/L
   140 mEq/L
   42.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2136-5-17**]  04:10 PM
                             [**2136-5-17**]  10:00 PM
                             [**2136-5-18**]  02:18 AM
                             [**2136-5-18**]  04:26 AM
                             [**2136-5-18**]  06:53 PM
                             [**2136-5-19**]  04:27 AM
                             [**2136-5-20**]  04:27 AM
                             [**2136-5-21**]  04:33 AM
                             [**2136-5-22**]  03:56 AM
                             [**2136-5-23**]  04:06 AM
   WBC
   8.7
   8.6
   8.8
   8.4
   9.0
   10.5
   10.3
   Hct
   38.4
   35.5
   37.0
   39.0
   40.4
   39.5
   42.3
   Plt
   368
   352
   339
   [**Telephone/Fax (3) 9111**]
   210
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   TropT
   <0.01
   TCO2
   42
   41
   37
   Glucose
   186
   144
   121
   95
   110
   136
   114
   Other labs: PT / PTT / INR:12.0/30.8/1.0, CK / CKMB /
   Troponin-T:13/2/<0.01, ALT / AST:14/19, Alk Phos / T Bili:69/0.5,
   Differential-Neuts:92.4 %, Band:18.0 %, Lymph:5.1 %, Mono:1.7 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:267 IU/L,
   Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPOXEMIA
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71y F with severe COPD and cognitive impairment who presented initially
   with SBO, then with repeated episodes of hypoxia attributed initially
   to aspiration and now to mucus plugging.
   #) Hypoxia/pneumonia/respiratory distress:  Most likely cause is
   recurrent mucous plugging with LLL pneumonia possibly related to
   aspiration.  Because of her underlying bad COPD, she has little
   reserve.  Investigation into other causes has not been revealing,
   including negative LENIs and non-diagnostic CTA, TTE without evidence
   of PFO.  Antibiotics stopped 2 days ago given low suspicion of
   infectious etiology and that she had completed her course for
   aspiration pneumonia.
   - currently on a slow steroid taper for COPD; transition to prednisone
   30mg QD to be tapered over 2-3 weeks.
   - continue albuterol/ipratropium nebulizers as needed
   - continue chest physical therapy and aim to place in pulm rehab
   - continue dysphagia diet; will d/c if excessive coughing/clinical
   evidence fo aspiration; as per S+S needs to be re-evaluated at rehab
   - repeat CXR
   - conitnue supplemental O2: 4LNC, apparently pt was on face mask
   overnight, but did not require it to maintain sats above 90%
   .
   #) Tachycardia:. Although her HR is generally over 100, has been in
   120s-130s overnight.
   - repeat EKG: Sinus tachy on 12-lead with frequent atrial ectopy
   - small trial of fluid bolus although pt not obviously dry on exam,
   monitor for improvement
   - PE always a poosiblilty but pt has been persistently on SQH and had
   negative LENIs last weeka and a CTA which was non-diagnostic.
   .
   #) Rash:  Over buttocks. Unchanged.
   - continue to monitor.
   .
   #) Nausea/vomiting/SBO: Resolved.
   .
   #) Bipolar disorder:  - continue Ativan and olanzapine
   .
   ICU Care
   Nutrition: dysphagia diet
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-17**] 02:29 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pulm rehab pending placement

2136-05-24 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-23**]
   - With some tachycardia (110's-120's), sinus tach + APCs vs. MAT, no
   intervention
   - Decreased steroids to 30mg prednisone
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-5-23**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2136-5-23**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-24**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.4
   HR: 126 (102 - 136) bpm
   BP: 110/43(57) {102/43(57) - 152/86(102)} mmHg
   RR: 23 (15 - 35) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.2 kg (admission): 76.1 kg
   Height: 63 Inch
                  Total In:
                                                                  1,110 mL
                  PO:
                                                                  1,100 mL
                  TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                      0 mL
   Urine:
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    735 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   13.8 g/dL
   124 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   21 mg/dL
   95 mEq/L
   142 mEq/L
   42.1 %
   11.4 K/uL
        [image002.jpg]
                             [**2136-5-17**]  10:00 PM
                             [**2136-5-18**]  02:18 AM
                             [**2136-5-18**]  04:26 AM
                             [**2136-5-18**]  06:53 PM
                             [**2136-5-19**]  04:27 AM
                             [**2136-5-20**]  04:27 AM
                             [**2136-5-21**]  04:33 AM
                             [**2136-5-22**]  03:56 AM
                             [**2136-5-23**]  04:06 AM
                             [**2136-5-24**]  04:50 AM
   WBC
   8.6
   8.8
   8.4
   9.0
   10.5
   10.3
   11.4
   Hct
   35.5
   37.0
   39.0
   40.4
   39.5
   42.3
   42.1
   Plt
   [**Telephone/Fax (3) 9125**]77
   226
   210
   202
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   42
   41
   37
   Glucose
   144
   121
   95
   110
   136
   114
   124
   Other labs: PT / PTT / INR:12.0/30.8/1.0, CK / CKMB /
   Troponin-T:13/2/<0.01, ALT / AST:14/19, Alk Phos / T Bili:69/0.5,
   Differential-Neuts:92.4 %, Band:18.0 %, Lymph:5.1 %, Mono:1.7 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:267 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: comparison with the study of [**5-21**], there is persistent
   opacification at the left base consistent with volume loss in the lower
   lung and pleural effusion. The possibility of a supervening infection
   cannot be excluded on without a lateral view.
   Microbiology: NO PENDING MICRO
   ECG: ekg
   Assessment and Plan
 HYPOXEMIA
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71y F with severe COPD and cognitive impairment who presented initially
   with SBO, then with repeated episodes of hypoxia attributed initially
   to aspiration and now to mucus plugging.
   #) Hypoxia/pneumonia/respiratory distress:  Most likely cause is
   recurrent mucous plugging with LLL pneumonia possibly related to
   aspiration.  Because of her underlying COPD, she has little reserve.
   Investigation into other causes has not been revealing, including
   negative LENIs and non-diagnostic CTA, TTE without evidence of PFO.
   Antibiotics stopped given low suspicion of infectious etiology and that
   she had completed her course for aspiration pneumonia.
   - currently on a slow steroid taper for COPD; transition to prednisone
   30mg QD to be tapered over 2-3 weeks.
   - continue albuterol nebs, trial of spiriva today; if fails, will
   restart ipratropium
   - continue chest physical therapy and aim to place in pulm rehab
   - continue dysphagia diet; will d/c if excessive coughing/clinical
   evidence fo aspiration; as per S+S needs to be re-evaluated at rehab
   - repeat CXR QOD to monitor LLL opacity.
   - conitnue supplemental O2: 4LNC, apparently pt was on face mask
   overnight, but did not require it to maintain sats above 90%
   .
   #) Tachycardia:. HR  has averaged 120s-130s for approximately 24hrs.
   EKGs with significant artifact but appear to demonstrate multiple
   p-wave morphologies (although p-axis non-variable). COPD excellent
   substrate for MAT.  Recent LENIs negaive and recent CTA non-diagnositic
   [**2-6**] movt.  O2 requirement is high but has been improving as tachycardia
   has worsened. As we are labeling this as MAT, would rate rate control
   to prevent tachy-myopathy from HR persistently in 120s.
   - start METOPROLOL 12.5mg QID
   - TELEMETRY
   .
   #) Rash:  Over buttocks. Unchanged.
   - continue to monitor; continue miconazole
   .
   #) Nausea/vomiting/SBO: Resolved.
   .
   #) Bipolar disorder:  - continue Ativan and olanzapine
   ICU Care
   Nutrition: dyspahgia
   Glycemic Control:
   Lines:
   PICC Line - [**2136-5-17**] 02:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending placement in pulm rehab

2136-05-25 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-24**]
   - Started on metoprolol QID, still tachycardic to 100-110s
   - Increased stool volume, ~hourly. C. diff sent
   Allergies:
   Phenothiazines
   Unknown;
   Piperacillin Sodium/Tazobactam (Intraven)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-5-24**] 09:29 PM
   Lorazepam (Ativan) - [**2136-5-24**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-25**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 112 (93 - 127) bpm
   BP: 148/91(103) {112/49(39) - 148/95(116)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73.2 kg (admission): 76.1 kg
   Height: 63 Inch
                  Total In:
                                                                    920 mL
                  PO:
                                                                    920 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   14.4 g/dL
   120 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.2 mEq/L
   18 mg/dL
   93 mEq/L
   137 mEq/L
   44.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2136-5-18**]  02:18 AM
                             [**2136-5-18**]  04:26 AM
                             [**2136-5-18**]  06:53 PM
                             [**2136-5-19**]  04:27 AM
                             [**2136-5-20**]  04:27 AM
                             [**2136-5-21**]  04:33 AM
                             [**2136-5-22**]  03:56 AM
                             [**2136-5-23**]  04:06 AM
                             [**2136-5-24**]  04:50 AM
                             [**2136-5-25**]  03:47 AM
   WBC
   8.6
   8.8
   8.4
   9.0
   10.5
   10.3
   11.4
   12.2
   Hct
   35.5
   37.0
   39.0
   40.4
   39.5
   42.3
   42.1
   44.1
   Plt
   [**Telephone/Fax (3) 9125**]77
   [**Telephone/Fax (2) 9129**]89
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   0.6
   0.7
   TCO2
   41
   37
   Glucose
   144
   121
   95
   110
   136
   114
   124
   120
   Other labs: PT / PTT / INR:12.0/30.8/1.0, CK / CKMB /
   Troponin-T:13/2/<0.01, ALT / AST:14/19, Alk Phos / T Bili:69/0.5,
   Differential-Neuts:92.4 %, Band:18.0 %, Lymph:5.1 %, Mono:1.7 %,
   Eos:0.7 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL, LDH:267 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Imaging: [**5-24**] CXR: There is no interval change in the left retrocardiac
   atelectasis but slightly improved aeration of the lateral portion of
   the left base most likely due to decreased pleural effusion. The lungs
   otherwise unchanged with no interval development of pulmonary edema
   with new focal opacities. Compared to [**2136-5-21**], there is interval
   significant improvement of left lower lobe atelectasis with more
   central position of the mediastinum.
   Microbiology: CDIFF ordered but not sent
   [**2136-5-17**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2136-5-13**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2136-5-12**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2136-5-12**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2136-5-12**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   Assessment and Plan
 HYPOXEMIA
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 TACHYCARDIA, OTHER
   71y F with severe COPD and cognitive impairment who presented initially
   with SBO, then with repeated episodes of hypoxia attributed initially
   to aspiration and now to mucus plugging.
   #) Hypoxia/pneumonia/respiratory distress:  Most likely cause is
   recurrent mucous plugging with LLL pneumonia possibly related to
   aspiration.  Because of her underlying COPD, she has little reserve.
   Investigation into other causes has not been revealing, including
   negative LENIs and non-diagnostic CTA, TTE without evidence of PFO.
   Antibiotics stopped given low suspicion of infectious etiology and that
   she had completed her course for aspiration pneumonia.
   - currently on a slow steroid taper for COPD; transition to prednisone
   30mg QD to be tapered over 2-3 weeks.
   - continue albuterol nebs, trial of spiriva today; if fails, will
   restart ipratropium
   - continue chest physical therapy and aim to place in pulm rehab
   - continue dysphagia diet; will d/c if excessive coughing/clinical
   evidence fo aspiration; as per S+S needs to be re-evaluated at rehab
   - repeat CXR QOD to monitor LLL opacity.
   - conitnue supplemental O2: 4LNC, apparently pt was on face mask
   overnight, but did not require it to maintain sats above 90%
   .
   #) Tachycardia:. HR  has averaged 120s-130s for approximately 24hrs.
   EKGs with significant artifact but appear to demonstrate multiple
   p-wave morphologies (although p-axis non-variable). COPD excellent
   substrate for MAT.  Recent LENIs negaive and recent CTA non-diagnositic
   [**2-6**] movt.  O2 requirement is high but has been improving as tachycardia
   has worsened. As we are labeling this as MAT, would rate rate control
   to prevent tachy-myopathy from HR persistently in 120s.
   - start METOPROLOL 12.5mg QID
   - TELEMETRY
   .
   #) Rash:  Over buttocks. Unchanged.
   - continue to monitor; continue miconazole
   .
   #) Nausea/vomiting/SBO: Resolved.
   .
   #) Bipolar disorder:  - continue Ativan and olanzapine
   ICU Care
   Nutrition: dysphagia diet
   Glycemic Control:
   Lines:
   Midline - [**2136-5-20**] 02:30 PM
   Prophylaxis:
   DVT:  sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending placement